US08461196B2
D. Preparation of (±)-[2-(3,4-dichloro-phenyl)-(r/s)-2-(1-hydroxy-ethyl)-cyclopropylmethyl]-carbamic acid tert-butyl ester
(±)-[2-Acetyl-2-(3,4-dichlorophenyl)-cyclopropylmethyl]-carbamic acid tert-butyl ester was added to methanol and stirred at ambient temperature under Ar (g) in a 50 mL round-bottomed flask. Potassium borohydride was added portion wise and the suspension stirred overnight. The resulting suspension partitioned between EtOAc (10 mL) and water (10 mL). The aqueous layer was extracted with EtOAc (2×10 mL), and the combined layers washed with brine (10 mL). The organic layer was dried over sodium sulfate for 2 hours and filtered, concentrated under reduced pressure, and dried for 1 hour to afford 0.523 g of a white sticky solid. The solid was purified on a filter pad of silica eluting with 4/1 hexanes/EtOAc (v/v), switching to 6/4 hexanes/EtOAc (v/v) upon collection of the major spot. The second (other) diastereomer was collected. The desired compound is pale oil; Yield: 0.328 g 49%; The undesired diastereomer is a white solid; Yield: 0.120 g 18%; 1H NMR: Desired diastereomer: (300 MHz, DMSO-d6) 7.50-53 (m, 2H, J=2.1 Hz, ArH), 7.22-25 (dd, 1H, J=9.0 Hz, J=1.8 Hz, ArH), 6.91 (bs, 1H, OH), 4.26 (m, 1H, NH), 3.50 (m, 1H, CH2N), 3.32 (m, 1H, CH2N), 3.26 (m, 3H, CH3), 1.40 (s, 9H, tert-Bu), 1.02 (m, 2H, ArCCH2), 0.55 (m, 1H, CHCH2N); Undesired diastereomer (not shown): (300 MHz, CDCl3) 7.57 (m, 1H, ArH), 7.50 (d, 1H, J=8.1 Hz, ArH), 7.31 (dd, 1H, J=8.4 Hz, J=1.8 Hz, ArH), 7.11 (bs, 1H, OH), 4.63 (d, 1H, J=3.3 Hz, NH), 3.46 (m, 1H), 3.33 (s, 3H), 3.12 (m, 2H), 1.38 (s, 9H, tert-Bu), 1.30 (m, 1H), 0.85 (d, 2H, J=6.0 Hz, ArCCH2), 0.78 (m, 1H, CHCH2N)

reactant | (±)-[2-Acetyl-2-(3,4-dichlorophenyl)-cyclopropylmethyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC1C(C1)(C1=CC(=C(C=C1)Cl)Cl)C(C)=O)=O | C17H21Cl2NO3
reactant | Potassium borohydride | [BH4-].[K+]
solvent | methanol | CO | CH4O
product | (±)-[2-(3,4-dichloro-phenyl)-(r/s)-2-(1-hydroxy-ethyl)-cyclopropylmethyl]-carbamic acid tert-butyl ester | 0.523 g | C(C)(C)(C)OC(NCC1C(C1)(C(C)O)C1=CC(=C(C=C1)Cl)Cl)=O | C17H23Cl2NO3
